US04339453
A mixture of 2-chloro-4-(3-hydroxypropylamino)pyrimidine (37 g, 0.2 m), n-dodecylamine (81.5 g, 0.44 m), ethanol (2.5 l) and water (250 ml) is heated under reflux until thin layer chromatography (silica gel; 7.5 parts by volume chloroform, 0.5 parts by volume concentrated ammonium hydroxide, and 2.0 parts by volume methanol) indicates absence of the pyrimidine starting material. After concentration of the mixture, the residue is taken up in methylene chloride, and filtered from some n-dodecylamine hydrochloride. The organic solution is washed with water, dried and concentrated, and the residue is chromatographed on silica gel using a chloroform-ethanol eluant system (0-10% by volume of ethanol) to yield 56 g of 2-n-dodecylamino-4-(3-hydroxypropylamino)pyrimidine, m.p. 58°-59° C.

reactant | 2-chloro-4-(3-hydroxypropylamino)pyrimidine | 37 g | ClC1=NC=CC(=N1)NCCCO | C7H10ClN3O
reactant | n-dodecylamine | 81.5 g | C(CCCCCCCCCCC)N | C12H27N
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | pyrimidine | N1=CN=CC=C1 | C4H4N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | 250 ml | O | H2O
solvent | ethanol | 2.5 l | C(C)O | C2H6O
product | 2-n-dodecylamino-4-(3-hydroxypropylamino)pyrimidine | 56 g | C(CCCCCCCCCCC)NC1=NC=CC(=N1)NCCCO | C19H36N4O
